US07652022B2
3-Pyridin-2-yl-5-trifluoromethyl-phenylamine (Compound of Stage 146.1)
The title compound Is synthesized via Stille coupling analogously to the procedure of Zhang et al., Synthetic Commun. 31 (8), 1129-1139 (2001) 3-amino-5-bromo-benzotrifluoride (600 mg, 2.44 mmol), 2-tributylstannyl-pyridine (1.0 g, 2.69 mmol), and tetrakistriphenylphosphin palladium (282 mg, 0.245 mmol) dissolved in THF (10 mL) is stirred under Ar at 90° C. for 7 d. After concentrating under reduced pressure, the reaction mixture is flash chromatographed (silica gel, 2.6×46 cm, AcOEt/hexane: 1:2→2:3) to give compound of Stage 146.1 as a yellow oil: M+H=239.1; 1H-NMR (400 MHz, DMSO-d6): 8.64 (d, 5.0 Hz, 1H), 7.82 (m, 2H), 7.54/7.45 (s/s, 1H/1H), 7.36 (m, 1H9, 6.90 (s, 1H), 5.73 (s/broad, 2H); HPLC: 3.49 min (System 1); Rf (hexane/AcOEt=2:1): 1.5.

reactant | 3-amino-5-bromo-benzotrifluoride | 2.44 mmol, 600 mg | NC=1C=C(C=C(C1)Br)C(F)(F)F | C7H5BrF3N
reactant | 2-tributylstannyl-pyridine | 2.69 mmol, 1.0 g | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-Pyridin-2-yl-5-trifluoromethyl-phenylamine | N1=C(C=CC=C1)C=1C=C(C=C(C1)C(F)(F)F)N | C12H9F3N2
